US05985905
Ethyl 5,6-dichloro-1H-indole-2-carboxylate
A mixture of ethyl α-oxo-3-(2-nitro-4,5-dichlorophenyl)propanoate (100 g, 327 mmol) and iron powder (160 g) in EtOH (625 ml) and acetic acid (625 ml) was refluxed for two hours. After cooling, the resulting mixture was evaporated under vacuum and the solid residue was dissolved in THF (1000 ml) and chromatographed on Florisil (500 g) eluting with THF (5000 ml). Evaporation of the collected fractions gave pure title compound (77.5 g, 301 mmol, yield 92.0%) as a light brown powder, m.p. 215°-218° C.

reactant | ethyl α-oxo-3-(2-nitro-4,5-dichlorophenyl)propanoate | 327 mmol, 100 g | O=C(C(=O)OCC)CC1=C(C=C(C(=C1)Cl)Cl)[N+](=O)[O-] | C11H9Cl2NO5
solvent | EtOH | 625 ml | CCO | C2H6O
solvent | acetic acid | 625 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 160 g | [Fe] | Fe
product | Ethyl 5,6-dichloro-1H-indole-2-carboxylate | 301 mmol, 77.5 g, yield 92.0% | ClC=1C=C2C=C(NC2=CC1Cl)C(=O)OCC | C11H9Cl2NO2
